US08293735B2
(R)-8-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-pyrazino[2,1-c][1,4]oxazin-4-one
Prepared according to the method used in the preparation of (S)-4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-3-isopropyl-piperazin-2-one using (R)-hexahydro-pyrazino[2,1-c][1,4]oxazin-4-one in place of (S)-3-isopropyl-piperazin-2-one. The title compound was obtained as a tan solid (79 mg, 69%).

reactant | (S)-4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-3-isopropyl-piperazin-2-one | ClC=1N=C(C2=C(N1)C=C(S2)CN2[C@H](C(NCC2)=O)C(C)C)N2CCOCC2 | C18H24ClN5O2S
reactant | (R)-hexahydro-pyrazino[2,1-c][1,4]oxazin-4-one | C1OCC(N2[C@@H]1CNCC2)=O | C7H12N2O2
product | (R)-8-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-pyrazino[2,1-c][1,4]oxazin-4-one | ClC=1N=C(C2=C(N1)C=C(S2)CN2C[C@@H]1COCC(N1CC2)=O)N2CCOCC2 | C18H22ClN5O3S
